US04313948
(e) (±)-1-[3-(Acetylthio)-3-(1H-imidazol-4-yl)-1-oxopropyl]-L-proline, hydrochloride
A solution of 2.8 g (5.99 mmol) of (±)-1-[3-(acetylthio)-3-[1-[(1,1-dimethylethoxy)carbonyl]-1H-imidazol-4-yl]-1-oxopropyl]-L-proline, 1,1-dimethylethyl ester in 125 ml of CH2Cl2 and 6.5 ml (59.9 mmol) of anisole is cooled in an ice-water bath under nitrogen and saturated with HCl. The cold bath is removed and the stoppered flask is kept at ambient temperature for five hours. The reaction mixture is then concentrated in vacuo and the residue partitioned between 40 ml of water and 40 ml of diethyl ether. The organic solution is extracted with 20 ml more of water and the combined aqueous extracts lyophillized to afford 1.9 g of a glassy solid. This material is chromatographed on about 600 ml of LH-20 eluted with water. Pooling of the product fractions (R=0.36 on silica gel; 4:1:1:1, n-butanol:pyridine:acetic acid:water) yielded 1.9 g of product (±)-1-[3-(acetylthio)-3-(1H-imidazol-4-yl)-1-oxopropyl]-L-proline, hydrochloride.

reactant | (±)-1-[3-(acetylthio)-3-[1-[(1,1-dimethylethoxy)carbonyl]-1H-imidazol-4-yl]-1-oxopropyl]-L-proline, 1,1-dimethylethyl ester | 5.99 mmol, 2.8 g | C(C)(=O)SC(CC(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)C=1N=CN(C1)C(=O)OC(C)(C)C | C22H33N3O6S
reactant | anisole | 59.9 mmol, 6.5 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 125 ml | C(Cl)Cl | CH2Cl2
product | (±)-1-[3-(Acetylthio)-3-(1H-imidazol-4-yl)-1-oxopropyl]-L-proline, hydrochloride | 1.9 g | Cl.C(C)(=O)SC(CC(=O)N1[C@H](C(=O)O)CCC1)C=1N=CNC1 | InChI=1S/C13H17N3O4S.ClH/c1-8(17)21-11(9-6-14-7-15-9)5-12(18)16-4-2-3-10(16)13(19)20;/h6-7,10-11H,2-5H2,1H3,(H,14,15)(H,19,20);1H/t10-,11?;/m0./s1
